US04810708
For example, with 3,4-dihydro-6-methoxy-1-naphthalenone as the ketone and methyl 2-phenylaminonicotinate as the arylaminonicotinate, the 1,3-diketone,3,4-dihydro-6-methoxy-2-[[2-(phenylamino)-3-pyridinyl]-carbonyl]-1(2H)-napthalenone, results from the process of Example 8. To cyclize, reflux 9 g of the diketone in 400 ml of toluene containing a catalytic amount of p-toluenesulfonic acid. Collect the evolved water in a Dean-Stark trap. Remove the heat after 21/2 hours and allow the mixture to stand overnight. Distill the toluene under vacuum on a steam bath and crystallize the residue from acetonitrile, to provide the product 5,6-dihydro-3-methoxy-12-phenylnaphtho[1,2-b][1,8]naphthyridin-7(12H)-one, m.p. 234°-237.5° C., after crystallization from CH3CN.

reactant | 3,4-dihydro-6-methoxy-1-naphthalenone | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | methyl 2-phenylaminonicotinate | C1(=CC=CC=C1)NC1=C(C(=O)OC)C=CC=N1 | C13H12N2O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-dihydro-3-methoxy-12-phenylnaphtho[1,2-b][1,8]naphthyridin-7(12H)-one | COC1=CC=2CCC3=C(N(C4=NC=CC=C4C3=O)C3=CC=CC=C3)C2C=C1 | C23H18N2O2
